US07888386B2
(R)-3-((S)-hydroxyphenylmethyl)pyrrolidine-1-carboxylic acid t-butyl ester (10.0 g, 36.0 mmol) was dissolved in anhydrous DMF (65 mL, 840 mmol). Washed and dried sodium hydride (1.0 g, 43 mmol) was added, and the mixture stirred at room temperature for 15 minutes. 3,5-Dichlorofluorobenzene (10 mL, 80 mmol) was then added, and the mixture stirred at 70° C. for 3 hours. The mixture was cooled to room temperature. EtOAc (200 mL) and 1M HCl (200 mL) was added, mixed, and the phases separated. The organic layer was washed with 2×200 mL of diluted aqueous NaCl, dried over Na2SO4, and concentrated to dryness to yield 19 g of crude product. The crude product was purified on a 300 g SiG column to yield (R)-3-[(S)-(3,5-dichlorophenoxy)phenylmethyl]pyrrolidine-1-carboxylic acid t-butyl ester as a white sticky foam (14.1 g, 91.67% purity).

reactant | (R)-3-((S)-hydroxyphenylmethyl)pyrrolidine-1-carboxylic acid t-butyl ester | 36.0 mmol, 10.0 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)[C@@H](C1=CC=CC=C1)O | C16H23NO3
reactant | DMF | 840 mmol, 65 mL | CN(C)C=O | C3H7NO
reactant | sodium hydride | 43 mmol, 1.0 g | [H-].[Na+]
reactant | 3,5-Dichlorofluorobenzene | 80 mmol, 10 mL | ClC=1C=C(C=C(C1)Cl)F | C6H3Cl2F
reactant | HCl | 1M, 200 mL | Cl | ClH
solvent | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
product | (R)-3-[(S)-(3,5-dichlorophenoxy)phenylmethyl]pyrrolidine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)[C@@H](C1=CC=CC=C1)OC1=CC(=CC(=C1)Cl)Cl | C22H25Cl2NO3
